US06605626B2
B. Methyl 3-[(4-Methoxybenzoyl)amino]-4-[(4-tert-butylbenzoyl)amino]benzoate
A solution of methyl 3-[(4-methoxybenzoyl)amino]-4-aminobenzoate (0.800 g, 2.67 mmol) in 1:1 acetonitrile/chloroform (100 mL) was cooled to 0° C. and treated with triethylamine (0.41 mL, 2.9 mmol), and a solution of 4-tert-butylbenzoyl chloride (0.58 mL) in acetonitrile (25 μL). The reaction mixture was allowed to warm to room temperature over 16 h, concentrated in vacuo, diluted with ethyl acetate, washed with cold dilute aqueous hydrochloric acid and cold saturated aqueous sodium bicarbonate solution. The organic layer was dried (magnesium sulfate), filtered, and concentrated in vacuo. Crystallization of the residue from methylene chloride/hexane provided 1.0 g (81%) of the title compound.

reactant | methyl 3-[(4-methoxybenzoyl)amino]-4-aminobenzoate | 2.67 mmol, 0.800 g | COC1=CC=C(C(=O)NC=2C=C(C(=O)OC)C=CC2N)C=C1 | C16H16N2O4
reactant | acetonitrile chloroform | 100 mL | C(C)#N.C(Cl)(Cl)Cl
reactant | triethylamine | 2.9 mmol, 0.41 mL | C(C)N(CC)CC | C6H15N
reactant | 4-tert-butylbenzoyl chloride | 0.58 mL | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
solvent | acetonitrile | 25 μL | C(C)#N | C2H3N
product | Methyl 3-[(4-Methoxybenzoyl)amino]-4-[(4-tert-butylbenzoyl)amino]benzoate | 1.0 g, 81% | COC1=CC=C(C(=O)NC=2C=C(C(=O)OC)C=CC2NC(C2=CC=C(C=C2)C(C)(C)C)=O)C=C1 | C27H28N2O5
